US09353108B2
B) Methyl 3-ethoxy-2′-fluorobiphenyl-4-carboxylate
(2-Fluorophenyl)boronic acid (0.918 g), cesium fluoride (1.99 g), and a dichloromethane adduct of (1,1′-bis(diphenylphosphino)ferrocene)dichloropalladium(II) (0.714 g) were added to a mixture of methyl 2-ethoxy-4-iodobenzoate (1.34 g) and DME (20 mL), and the resultant mixture was stirred at 100° C. for 15 hours in an argon atmosphere. Water was added to the reaction mixture, and the mixture was filtered through celite. The filtrate was subjected to extraction with ethyl acetate. The organic layer was washed with water and saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (1.15 g).

reactant | (2-Fluorophenyl)boronic acid | 0.918 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | cesium fluoride | 1.99 g | [F-].[Cs+]
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methyl 2-ethoxy-4-iodobenzoate | 1.34 g | C(C)OC1=C(C(=O)OC)C=CC(=C1)I | C10H11IO3
solvent | Water | O | H2O
solvent | DME | 20 mL | COCCOC | C4H10O2
product | Methyl 3-ethoxy-2′-fluorobiphenyl-4-carboxylate | 1.15 g | C(C)OC=1C=C(C=CC1C(=O)OC)C1=C(C=CC=C1)F | C16H15FO3
